US07582626B2
g) (7-Methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,4]thiazin-3-yl)-acetic acid ethyl ester
A solution of [7-(methanesulfonyl-tert-butyloxycarbonyl-amino)-4-tert-butyloxycarbonyl-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,4]thiazin-3-yl]-acetic acid ethyl ester (0.30 g, 0.54 mmol) in 1:1 dichloromethane/trifluoroacetic acid was stirred at 25° C. for 2 h. The reaction mixture was concentrated in vacuo and the residue was dissolved in ethyl acetate. The solution was washed with saturated aqueous sodium bicarbonate solution and saturated aqueous brine solution. The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo to afford the desired product, (7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,4]thiazin-3-yl)-acetic acid ethyl ester (0.17 g, 0.47 mmol, 86%) as a yellow solid. 1H NMR (400 MHz, CDCl3) δ 1.32 (t, 3H, J=6.9 Hz), 3.03 (s, 3H), 4.02 (s, 2H), 4.21 (q, 2H, J=7.0 Hz), 5.02 (s, 1H), 6.96 (s, 1H), 7.02 (d, 1H, J=8.4 Hz), 7.53 (dd, 1H, J1=8.7 Hz, J2=2.4 Hz), 7.65 (d, 1H, J=2.2 Hz), 10.73 (s, 1H). LC-MS (ESI) calcd for C13H16N2O6S2 [M+H+] 361.04, found 361.18 [M+H+].

reactant | [7-(methanesulfonyl-tert-butyloxycarbonyl-amino)-4-tert-butyloxycarbonyl-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,4]thiazin-3-yl]-acetic acid ethyl ester | 0.54 mmol, 0.30 g | C(C)OC(CC1=CS(C2=C(N1C(=O)OC(C)(C)C)C=CC(=C2)N(C(=O)OC(C)(C)C)S(=O)(=O)C)(=O)=O)=O | C23H32N2O10S2
reactant | dichloromethane trifluoroacetic acid | ClCCl.FC(C(=O)O)(F)F
product | (7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,4]thiazin-3-yl)-acetic acid ethyl ester | 0.47 mmol, 0.17 g, 86% | C(C)OC(CC1=CS(C2=C(N1)C=CC(=C2)NS(=O)(=O)C)(=O)=O)=O | C13H16N2O6S2
